US07662831B2
Following the procedure of Example 1, step 3, 2-nitro-4,5,8,9,10,11-hexahydro-7H-cyclohepta[b]pyrrolo[3,2,1-hi]indole was hydrogenated over 5% palladium on carbon to provide 4,5,8,9,10,11-hexahydro-7H-cyclohepta[b]pyrrolo[3,2,1-hi]indole-2-amine which was used for the coupling reactions.

reactant | 2-nitro-4,5,8,9,10,11-hexahydro-7H-cyclohepta[b]pyrrolo[3,2,1-hi]indole | [N+](=O)([O-])C=1C=C2C3=C(N4C2=C(C1)CC4)CCCCC3 | C15H16N2O2
catalyst | palladium on carbon | [Pd] | Pd
product | 4,5,8,9,10,11-hexahydro-7H-cyclohepta[b]pyrrolo[3,2,1-hi]indole-2-amine | C1=C2C3=C(N4C2=C(C=C1N)CC4)CCCCC3 | C15H18N2
